US07482341B2
3-Trifluoromethyl-N-[6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-yl]-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-ylamine (0.08 g) and 3-(trifluoromethyl)-benzenesulfonyl chloride (0.081 g) as a light yellow gum (0.114 g). MS (ESI−): 475.0 ([M−H]−).

reactant | 6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-ylamine | 0.08 g | FC(C1=CC=C(OCC2=CC=CC(=N2)N)C=C1)(F)F | C13H11F3N2O
reactant | 3-(trifluoromethyl)-benzenesulfonyl chloride | 0.081 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 3-Trifluoromethyl-N-[6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-yl]-benzenesulfonamide | FC(C=1C=C(C=CC1)S(=O)(=O)NC1=NC(=CC=C1)COC1=CC=C(C=C1)C(F)(F)F)(F)F | C20H14F6N2O3S
